US07125896B2
b) 4-[(5-Chlorothien-2-yl)methoxy]phenyl acetone
Prepared by the method of Example 2 (b) from 2-chloromethyl-5-chlorothiophene and 4-hydroxyphenyl acetone.

reactant | 2-chloromethyl-5-chlorothiophene | ClCC=1SC(=CC1)Cl | C5H4Cl2S
reactant | 4-hydroxyphenyl acetone | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | 4-[(5-Chlorothien-2-yl)methoxy]phenyl acetone | ClC1=CC=C(S1)COC1=CC=C(C=C1)CC(C)=O | C14H13ClO2S
